US06387915B2
2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-3-isoxazoly]oxy}ethyl Acetate
To a solution of tert-butyl 3-[2-(acetoxy)ethoxy]-5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-isoxazolecarboxylate (Preparation 2) (3.16 g) in dichloromethane (40 mL) was added trifluoroacetic acid (20 mL). The reaction mixture was heated to reflux for 3 hours. After which time the reaction mixture was basified to pH8 using sodium hydrogen carbonate solution and then re-acidified to pH2 using aqueous hydrochloric acid (1.0 M). This aqueous layer was extracted into ethyl acetate (2×250 mL) and the organics combined, dried over magnesium sulfate and the solvent removed in vacuo to yield the crude material (2.6 g). This was dissolved up in toluene and refluxed for 2 hours. The solvent was removed in vacuo to yield the crude material as a light brown solid (2.3 g). The crude material was purified using the Biotage Flash 40i system (silica, 90 g) and eluted with hexane:ethyl acetate (5:2) to yield the product as a white solid (1.2 g).

reactant | tert-butyl 3-[2-(acetoxy)ethoxy]-5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-isoxazolecarboxylate | 3.16 g | C(C)(=O)OCCOC1=NOC(=C1C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C22H30N2O8S
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-3-isoxazoly]oxy}ethyl Acetate | 1.2 g | C(C)(=O)OCCOC1=NOC(=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C17H22N2O6S
